US06936619B2
Formyl(2-oxobutyl)formamide
A mixture of bromobutan-2-one (10 g, 66 mmol), and sodium diformylamide (6.8 g, 72 mmol) in acetonitrile (50 mL) was stirred at room temperature for 3 hours, then warmed to 35° C. for 2 hours. The mixture was stirred for a further 48 hours at room temperature, then filtered, washing through with additional acetonitrile (50 mL). The filtrate was evaporated under reduced pressure to afford the title compound as a clear oil, 9.1 g.

reactant | bromobutan-2-one | 66 mmol, 10 g | BrCC(CC)=O | C4H7BrO
reactant | sodium diformylamide | 72 mmol, 6.8 g | C(=O)[N-]C=O.[Na+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | Formyl(2-oxobutyl)formamide | C(=O)N(C=O)CC(CC)=O | C6H9NO3
